US06498166B1
iii) 6-Bromo-2-(4-fluorophenyl)-3-[4-(methylsulfonyl)phenyl]pyrazolo[1,5-a]pyridine
To a solution of 6-bromo-2-(4-fluorophenyl)-3-[4-(methylsulfanyl)phenyl]pyrazolo[1,5-a]pyridine (0.26 g 0.63 mmol) in acetone (30 ml) was added a solution of oxone (1.16 g 1.9 mmol) in water (10 ml). The reaction was stirred at room temperature for 20 hours, further oxone (1 g 1.7 mmol) in water (10 ml) was added and stirring was continued for 6 hours. The reaction mixture was poured into water (200 ml) and extracted with ethyl acetate (3×30 ml). The combined extracts were washed with water (30 ml), brine (30 ml) and dried. Removal of solvent gave a solid which was purified by biotage chromatography. Elution with cyclohexane ethyl acetate gave the title compound as a white solid (0.13 g 58%). MH+: 445, 447. NMR: (CDCl3) δ 3.13 (3H, s) 7.07 (2H, t) 7.29 (1H, dd) 7.45-7.55 (5H, m) 7.96 (2H, d) 8.67 (1H, s).

reactant | 6-bromo-2-(4-fluorophenyl)-3-[4-(methylsulfanyl)phenyl]pyrazolo[1,5-a]pyridine | 0.63 mmol, 0.26 g | BrC=1C=CC=2N(C1)N=C(C2C2=CC=C(C=C2)SC)C2=CC=C(C=C2)F | C20H14BrFN2S
reactant | oxone | 1.9 mmol, 1.16 g | OOS(=O)[O-].[K+]
reactant | oxone | 1.7 mmol, 1 g | OOS(=O)[O-].[K+]
reactant | acetone | 30 ml | CC(=O)C | C3H6O
solvent | water | 10 ml | O | H2O
solvent | water | 10 ml | O | H2O
solvent | water | 200 ml | O | H2O
product | 6-Bromo-2-(4-fluorophenyl)-3-[4-(methylsulfonyl)phenyl]pyrazolo[1,5-a]pyridine | 0.13 g, 58% | BrC=1C=CC=2N(C1)N=C(C2C2=CC=C(C=C2)S(=O)(=O)C)C2=CC=C(C=C2)F | C20H14BrFN2O2S
